US05091560
Synthesis of Hexanoyloxy Acetic Chloride
8.7 gm (0.05 mole) of hexanoylacetic acid and 12.7 gm (0.10 mole) of oxalyl chloride were mixed together at room temperature. The reaction was heated gradually over one hour at 50-60° C. for about two hours. Excess oxalyl chloride was removed under reduced pressure to yield an oil that exhibits no --OH stretch by IR. Weight was 9.6 gm.

reactant | hexanoylacetic acid | 0.05 mole, 8.7 gm | C(CCCCC)(=O)CC(=O)O | C8H14O3
reactant | oxalyl chloride | 0.10 mole, 12.7 gm | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | Hexanoyloxy Acetic Chloride | C(CCCCC)(=O)OCC(=O)Cl | C8H13ClO3
